US07884124B2
A mixture of ethyl 2-azido-3-(4-fluorothiophen-2-yl)acrylate and ethyl 2-azido-3-(5-fluorothiophen-2-yl)acrylate (0.37 g) was dissolved in m-xylene (˜10 mL) and heated at 145° C. for 20 min in a capped 40-mL vial. The m-xylene was evaporated in vacuo and the resulting residue was chromatographed over silica gel (0 to 40% EtOAc in heptane over 30 min) to give two products: (a) 0.15 g of an impure pale oil with an Rf=0.25 (10:90 EtOAc/heptane), which stained a bright violet color when developed using anisaldehyde and heat, which was further purified via preparative HPLC using a Chromeleon purification system (methanol/0.1% formic acid-1% acetonitrile mixture in water, 50 mm Dynamax C-18, 28 mL/min (initial gradient of 20% methanol and increasing to 100% over 7 min) to give ethyl 2-fluoro-4H-thieno[3,2-b]pyrrole-5-carboxylate (48.9 mg, 3%). tR of product: 4.2-4.4 min. 1H NMR (400 MHz, CD3CN) δ ppm 10.10 (s, 1H), 6.98-7.05 (m, 1H), 6.69 (dd, J=2.05, 0.49 Hz, 1H), 4.29 (q, J=7.09 Hz, 2H), 1.33 (t, J=7.13 Hz, 3H). 19F NMR (376 MHz, CD3CN) δ ppm −122.18 (d, J=2.29 Hz, 1F). (b) 10.5 mg of an impure pale oil with an Rf=0.30 (10:90 EtOAc/heptane), which stained a bright red color when developed using anisaldehyde and heat, was further purified via preparative HPLC as described above (40%-100% methanol over 7 min) to give ethyl 3-fluoro-4H-thieno[3,2-b]pyrrole-5-carboxylate (5.4 mg, 0.3%). tR of product: 3-3.4 min. 1H NMR (400 MHz, CD3CN) δ ppm 10.30 (s, 1H), 7.06 (t, J=2.05 Hz, 1H), 6.90 (d, J=2.54 Hz, 1H), 4.32 (q, J=7.09 Hz, 2H), 1.34 (t, J=7.10 Hz, 3H). 19F NMR (376 MHz, CD3CN) δ ppm −144.16 (t, J=2.29 Hz, 1F).

reactant | ethyl 2-azido-3-(4-fluorothiophen-2-yl)acrylate | N(=[N+]=[N-])C(C(=O)OCC)=CC=1SC=C(C1)F | C9H8FN3O2S
reactant | ethyl 2-azido-3-(5-fluorothiophen-2-yl)acrylate | 0.37 g | N(=[N+]=[N-])C(C(=O)OCC)=CC=1SC(=CC1)F | C9H8FN3O2S
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
solvent | m-xylene | ˜10 mL | C1(=CC(=CC=C1)C)C | C8H10
product | ethyl 2-fluoro-4H-thieno[3,2-b]pyrrole-5-carboxylate | 48.9 mg, 3% | FC1=CC=2NC(=CC2S1)C(=O)OCC | C9H8FNO2S
